US07956069B2
The preparation of (1R,2R) (2-benzyloxycyclohexyl) carbamic acid tert-butyl ester
To a solution of 2-benzyloxycyclohexylamine (5 g, 24.39 mmol) in dichloromethane (60 mL), di-tert-butyldicarbonate (6.4 g, 29.28 mmol) was added followed by the addition of triethylamine (6.75 mL) at 0° C. The reaction mixture was stirred at room temperature for 4 h, diluted with dichloromethane (80 mL), washed with saturated sodium bicarbonate solution (2×100 mL). The organic layer was separated, dried over anhydrous sodium sulfate and concentrated. The crude compound obtained was purified by column chromatography on silica gel using 2% MeOH/dichloromethane to give the desired compound as a solid (7 g, 95%). MS (M+1): 306.07

reactant | 2-benzyloxycyclohexylamine | 24.39 mmol, 5 g | C(C1=CC=CC=C1)OC1C(CCCC1)N | C13H19NO
reactant | di-tert-butyldicarbonate | 29.28 mmol, 6.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 6.75 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | (1R,2R) (2-benzyloxycyclohexyl) carbamic acid tert-butyl ester | 7 g, 95% | C(C)(C)(C)OC(N[C@H]1[C@@H](CCCC1)OCC1=CC=CC=C1)=O | C18H27NO3
